US06887896B1
(2E)-2-Fluoro-3-(4,4-dimethyl-(cyclopropyl)methoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenal (Compound A-63)
As described in General Procedure H-1, (2E)-2-fluoro-3-(4,4-dimethyl-6-(cyclopropyl)methoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenol (Compound A-54, 0.025 g, 0.070 mmol), tetrapropylammonium perruthenate (0.012 g, 0.038 mmol) and 4-methylmorpholine N-oxide (0.022 g, 0.19 mmol) were reacted in acetonitrile (0.2 mL) and dichloromethane (1 mL) to produce the title compound as an oil.

reactant | (2E)-2-fluoro-3-(4,4-dimethyl-6-(cyclopropyl)methoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenol | 0.070 mmol, 0.025 g | F\C(\CO)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC1CC1 | C23H31FO2
reactant | 4-methylmorpholine N-oxide | 0.19 mmol, 0.022 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
reactant | acetonitrile | 0.2 mL | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 0.038 mmol, 0.012 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (2E)-2-Fluoro-3-(4,4-dimethyl-(cyclopropyl)methoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenal | F\C(\C=O)=C(/C)\C1=CC=C2C(CC(=C(C2=C1)C(C)C)OCC1CC1)(C)C | C23H29FO2
